US07465809B2
3-Amino-N-(4-cyano-3-trifluoromethyl-phenyl)-2-hydroxy-2-methyl-propionamide
2-Methyl-oxirane-2-carboxylic acid (4-cyano-3-trifluoromethyl-phenyl)-amide (1.0 g, 3.48 mmoL) was dissolved in 7N NH3/MeOH solution (10 mL) at room temperature. The reaction mixture was stirred overnight and the solvent was removed to yield the title compound as pale yellow solid.

reactant | 2-Methyl-oxirane-2-carboxylic acid (4-cyano-3-trifluoromethyl-phenyl)-amide | 1.0 g | C(#N)C1=C(C=C(C=C1)NC(=O)C1(OC1)C)C(F)(F)F | C12H9F3N2O2
reactant | NH3 MeOH | 7N, 10 mL | N.CO
product | 3-Amino-N-(4-cyano-3-trifluoromethyl-phenyl)-2-hydroxy-2-methyl-propionamide | NCC(C(=O)NC1=CC(=C(C=C1)C#N)C(F)(F)F)(C)O | C12H12F3N3O2
